US04493799
A mixture of-ethyl 2-cyano-3-(4-hydroxyphenyl)-2-propenoate (150 g, 0.69 mole), sodium cyanide (35.8 g, 0.73 mole, 5.8 percent excess), chloroform (500 ml), water (450 ml) and benzyltriethylammonium chloride (3.5 g), is stirred under nitrogen at room temperature for 50 minutes. By this time, all the solid reagents are dissolved. Concentrated hydrochloric acid (115 ml) is added to the mixture and the chloroform layer removed. The residue is extracted with ethyl acetate. Each of the organic layers is washed with water and dried over anhydrous magnesium sulfate. Upon removal of the solvents, 22.4 g (13.4 percent) of ethyl 2,3-dicyano-3-(4-hydroxyphenyl)propionate is isolated from the chloroform layer, and 140 g (83 percent) of the same product is isolated from the ethyl acetate layer. The combined yield is 96.4 percent.

reactant | ethyl 2-cyano-3-(4-hydroxyphenyl)-2-propenoate | 0.69 mole, 150 g | C(#N)C(C(=O)OCC)=CC1=CC=C(C=C1)O | C12H11NO3
reactant | sodium cyanide | 0.73 mole, 35.8 g | [C-]#N.[Na+]
reactant | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 115 ml | Cl | ClH
catalyst | benzyltriethylammonium chloride | 3.5 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | water | 450 ml | O | H2O
product | ethyl 2,3-dicyano-3-(4-hydroxyphenyl)propionate | 22.4 g, 13.4 percent | C(#N)C(C(=O)OCC)C(C1=CC=C(C=C1)O)C#N | C13H12N2O3
